US05157027
A. 9-Methyl-8-decen-1-ol
A solution of 55.0 mL (~52 mmol) of 0.95M Grignard reagent prepared in Example 3, Part A in THF and 15.0 mL of hexamethylphosphoric triamide (HMPA) at 0° C. was treated dropwise with 1.95 g (13. 1 mmol) of phenyl bromide in 8 mL of THF over 10 minutes. After the addition the reaction was allowed to warm to room temperature and stir for 3.5 hours, at which point the reaction was diluted with ether and quenched with 100 mL (100 mmol) of 1M HCl solution. The organic layer was washed two times with NH4Cl solution, dried over MgSO4 and evaporated to provide a pale yellow oil. The oil was purified by flash chromatography performed on 200 g of silica gel eluted with 1:4 ethyl acetate/hexanes to provide 3.50 g of oil and hexanol. The hexanol was removed by distillation under reduced pressure (BP 75° C., ~20 mm Hg) to leave 1.50 g (67%) of title compound in the form of a colorless oil. This material contains ~2% of the Sn2' product, which could not be separated.

reactant | hexamethylphosphoric triamide | 15.0 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | phenyl bromide | 1 mmol, 1.95 g | C1(=CC=CC=C1)Br | C6H5Br
reactant | HCl | 100 mmol, 1M, 100 mL | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 8 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 9-Methyl-8-decen-1-ol | 3.50 g | CC(=CCCCCCCCO)C | C11H22O
